US03956374
Step C: 4-(p-Methylcinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
Triton B (1 ml., 40% in MeOH) is added to a stirred suspension of 1-(p-chlorophenyl)-4-phenyl-7-(p-methylphenyl)-1,6-heptadien-3-one (14.55 g., 0.038 mole) in glyme (150 ml.) followed by addition of methyl acrylate (3.87 g., 0.045 mole) in glyme (25 ml.). The mixture is warmed slightly to obtain solution then is stirred for 24 to 48 hours. The solvent is removed under reduced pressure and water (1000 ml.) and dilute hydrochloric acid is added to the residue. The organic material is extracted into ether and these extracts are washed with water, saturated brine and dried (MgSO4). After removal of the solvent the residue is heated with a solution of 20% sodium hydroxide (20 ml.) in methanol (800 ml.) on the steam bath for 24 hours. The methanol is removed in vacuo and the residue is dissolved in a large volume of water. Extraction with ether removes unreacted ketone. Ether is expelled from the aqueous phase by warming and dilute hydrochloric acid is added. The solid that separates is collected, washed well with water, and air-dried, yield 10.43 g., m.p. 170°-180°C. Recrystallization from acetonitrile gives material with m.p. 182°-185°C.

reactant | 1-(p-chlorophenyl)-4-phenyl-7-(p-methylphenyl)-1,6-heptadien-3-one | 0.038 mole, 14.55 g | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C26H23ClO
reactant | methyl acrylate | 0.045 mole, 3.87 g | C(C=C)(=O)OC | C4H6O2
solvent | MeOH | CO | CH4O
solvent | glyme | 150 ml | C(OC)COC | C4H10O2
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
product | 4-(p-Methylcinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | CC1=CC=C(C=CCC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=C1 | C29H27ClO3
